US08912188B2
To a solution of methyl 2-(1H-indazol-5-yl)-3-(isopropyl(methyl)amino)quinoxaline-6-carboxylate (110.0 mg, 0.29 mmol) in methanol (20 mL) and water (1 mL), was added LiOH.H2O (50 mg, 2.08 mmol,). After stirring for 2 days at room temperature, the reaction mixture was concentrated under reduced pressure to afford a residue, which was dissolved in water (10 mL), adjusted to pH 6 with hydrochloric acid (1N) and filtered to give 2-(1H-indazol-5-yl)-3-(isopropyl(methyl)amino)quinoxaline-6-carboxylic acid as a light yellow solid (47.4 mg, 45%).

reactant | methyl 2-(1H-indazol-5-yl)-3-(isopropyl(methyl)amino)quinoxaline-6-carboxylate | 0.29 mmol, 110.0 mg | N1N=CC2=CC(=CC=C12)C1=NC2=CC=C(C=C2N=C1N(C)C(C)C)C(=O)OC | C21H21N5O2
reactant | LiOH.H2O | 2.08 mmol, 50 mg | O[Li].O
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | methanol | 20 mL | CO | CH4O
solvent | water | 1 mL | O | H2O
solvent | water | 10 mL | O | H2O
product | 2-(1H-indazol-5-yl)-3-(isopropyl(methyl)amino)quinoxaline-6-carboxylic acid | 47.4 mg, 45% | N1N=CC2=CC(=CC=C12)C1=NC2=CC=C(C=C2N=C1N(C)C(C)C)C(=O)O | C20H19N5O2
